US04743607
Preparation of 1,3,4,5-tetrahydro-2H-Imidazo[4,5-f]isoquinolin-2-one
Isoquinolin-5-one (21.57 g, 0.147M) and hydroxylamine (15.55 g, 0.22M) together with approximately 300 ml of dry ethanol and 75 ml of pyridine was stirred at reflux temperature of the mixture for 6 hours. The solvent was then removed by evaporation and the residue was dissolved in a mixture of diethyl ether and water (600 ml, ca. 1:1). The organic phase was separated and extracted with water to remove residual pyridine, washed with saturated, aqueous solution of sodium chloride and dried over magnesium sulfate crystals. The inorganic matter was removed by filtration and the solvent by evaporation leaving 14.7 grams of the desired product (61.7% yield).

reactant | Isoquinolin-5-one | 0.147M, 21.57 g | C1=NC=CC=2C(CC=CC12)=O | C9H7NO
reactant | hydroxylamine | 0.22M, 15.55 g | NO | H3NO
reactant | ethanol | approximately 300 ml | C(C)O | C2H6O
reactant | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 1,3,4,5-tetrahydro-2H-Imidazo[4,5-f]isoquinolin-2-one | 14.7 grams, 61.7% yield | N1C(NC2=C1C=1C=CN=CC1CC2)=O | C10H9N3O
